US08420654B2
Cool a solution of (R)-3-[1-methyl-1-(2-trifluoromethyl-pyrimidin-4-yl)-ethylamino]-1-(4-trifluoromethyl-phenyl)-5-(3-trifluoromethoxy-phenyl)-1,5-dihydro-pyrrol-2-one (7.5 g, 12.7 mmol) in acetic acid (60 mL) and THF (15 mL) to 0° C. and add sodium cyanoborohydride (1.60 g, 25.4 mmol). Remove the cooling bath after 5 minutes and stir 60 minutes at ambient temperature. Dilute the reaction mixture with ethyl acetate and slowly pour into saturated aqueous sodium bicarbonate solution. Separate the organic layer and concentrate under reduced pressure. Purify the residue by silica gel chromatography (15-40% ethyl acetate-hexane) to obtain (3R,5R)-3-[1-methyl-1-(2-trifluoromethyl-pyrimidin-4-yl)-ethylamino]-5-(3-trifluoromethoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-pyrrolidin-2-one (5.20 g, 69%) as a purple foam. To remove purple color, dissolve (3R,5R)-3-[1-methyl-1-(2-trifluoromethyl-pyrimidin-4-yl)-ethylamino]-5-(3-trifluoromethoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-pyrrolidin-2-one in methanol (150 mL) and add activated carbon. Stir at ambient temperature for 20 min, filter, and concentrate under reduced pressure to give a white foam (4.6 g, 88%). 1H NMR (400 MHz, CDCl3): δ 8.79 (d, J=5.3 Hz, 1H), 7.90 (d, J=5.3 Hz, 1H), 7.46 (d, J=8.4 Hz, 2H), 7.36 (d, J=8.8 Hz, 2H), 7.27 (t, J=7.9 Hz, 1H), 7.08 (d, J=7.9 Hz, 1H), 7.04 (d, J=8.4 Hz, 1H), 6.98 (s, 1H), 5.04 (dd, J=6.2, 9.7 Hz, 1H), 3.51-3.45 (m, 1H), 2.90-2.81 (m, 1H), 1.89-1.81 (m, 1H), 1.56 (s, 3H), 1.50 (s, 3H). LC-MS ESI m/z: 593 (M+H)+, Tr=3.07 min., method 2.

reactant | (R)-3-[1-methyl-1-(2-trifluoromethyl-pyrimidin-4-yl)-ethylamino]-1-(4-trifluoromethyl-phenyl)-5-(3-trifluoromethoxy-phenyl)-1,5-dihydro-pyrrol-2-one | 12.7 mmol, 7.5 g | CC(C)(C1=NC(=NC=C1)C(F)(F)F)NC=1C(N([C@H](C1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C26H19F9N4O2
reactant | sodium cyanoborohydride | 25.4 mmol, 1.60 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (3R,5R)-3-[1-methyl-1-(2-trifluoromethyl-pyrimidin-4-yl)-ethylamino]-5-(3-trifluoromethoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-pyrrolidin-2-one | 5.20 g, 69% | CC(C)(C1=NC(=NC=C1)C(F)(F)F)N[C@H]1C(N([C@H](C1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C26H21F9N4O2
